US06114334
Tri-o-tolylphosphine (1.42 g) was added to a stirred suspension of bis (dibenzylideneacetone) palladium (O) (1.4 g) in toluene (480 ml) at ambient temperature under nitrogen. Sodium tert-butoxide (16.1 g) was added, followed by N-tert-butoxycarbonylpiperazine (26.6 g) and stirring was continued at ambient temperature for 5 minutes. 7-Bromobenzo[b]furan (23.3 g) was added and the stirred mixture was heated under reflux for 20 hours and then cooled to ambient temperature. The organic solution was decanted from the palladium residues, then washed with brine (500 ml) and dried (MgSO4). The solvent was removed in vacuo and the residue was purified by flash column chromatography over silica using a 1:9 mixture of ether and petroleum ether (b.p. 60-80° C.) as eluant to give tert-butyl 4-(7-benzo[b]furanyl)piperazine-1-carboxylate (7.12 g) as a pale yellow solid, m.p. 98-100° C.

reactant | Tri-o-tolylphosphine | 1.42 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | Sodium tert-butoxide | 16.1 g | CC(C)([O-])C.[Na+]
reactant | N-tert-butoxycarbonylpiperazine | 26.6 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 7-Bromobenzo[b]furan | 23.3 g | BrC1=CC=CC2=C1OC=C2 | C8H5BrO
solvent | toluene | 480 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis (dibenzylideneacetone) palladium | 1.4 g | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | tert-butyl 4-(7-benzo[b]furanyl)piperazine-1-carboxylate | 7.12 g | O1C2=C(C=C1)C=CC=C2N2CCN(CC2)C(=O)OC(C)(C)C | C17H22N2O3
